US09447091B2
b) 4-(4-Bromo-1H-pyrazol-1-yl)-2-methylbutan-2-ol
To a solution of 4-bromo-1H-pyrazole (1 g, 6.84 mmol, 1.0 eq) in DMF were added K2CO3 (2.3 g, 17.1 mmol, 2.5 eq.) and 4-bromo-2-methylbutan-2-ol (1.7 g, 10.27 mmol, 1.5 eq.). The mixture was stirred at RT for 16 h. The mixture was quenched and extracted as in Intermediate Example 5(a). The solvent was distilled off to afford the product in 60% yield (0.9 g). LC-MS (ESI): Calculated mass 233.0; Observed mass 235.0. [M+H]+ (rt: 0.64 min).

reactant | 4-bromo-1H-pyrazole | 6.84 mmol, 1 g, 1.0 eq | BrC=1C=NNC1 | C3H3BrN2
reactant | K2CO3 | 17.1 mmol, 2.3 g, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromo-2-methylbutan-2-ol | 10.27 mmol, 1.7 g, 1.5 eq. | BrCCC(C)(O)C | C5H11BrO
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(4-Bromo-1H-pyrazol-1-yl)-2-methylbutan-2-ol | 60% yield | BrC=1C=NN(C1)CCC(C)(O)C | C8H13BrN2O
